US08609656B2
Preparation of N-(2-hydroxy-1-hydroxymethyl-ethyl)-3-{3-[4-(6-(methylamino)purin-9-yl)phenyl]ureido}-5-(trifluoromethyl)benzamide (Table 2, Compound No. 54)
To 40.8 mg (0.063 mmol) of [9-(4-{3-[3-(2-hydroxy-1-hydroxymethyl-ethyl-carbamoyl)-5-trifluoromethylphenyl]ureido}phenyl)-9H-purin-6-yl]-methyl-carbamic acid tert-butyl ester, 1 mL of trifluoroacetic acid was added and the mixture solution was stirred at room temperature for one hour. The solvent was distilled under reduced pressure from the reaction solution and the obtained residue was dissolved in methanol (1 mL) and water (60 μL), and 43.7 mg (0.315 mmol) of potassium carbonate was added thereto, and the mixture solution was stirred at room temperature for 1.5 hours. Water was added to the reaction solution and the obtained solid was collected by filtration and dried under reduced pressure to obtain 32 mg (93%) of a target product as a white solid.

reactant | [9-(4-{3-[3-(2-hydroxy-1-hydroxymethyl-ethyl-carbamoyl)-5-trifluoromethylphenyl]ureido}phenyl)-9H-purin-6-yl]-methyl-carbamic acid tert-butyl ester | 0.063 mmol, 40.8 mg | C(C)(C)(C)OC(N(C)C1=C2N=CN(C2=NC=N1)C1=CC=C(C=C1)NC(=O)NC1=CC(=CC(=C1)C(F)(F)F)C(NC(CO)CO)=O)=O | C29H31F3N8O6
reactant | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | potassium carbonate | 0.315 mmol, 43.7 mg | C([O-])([O-])=O.[K+].[K+]
solvent | water | 60 μL | O | H2O
product | N-(2-hydroxy-1-hydroxymethyl-ethyl)-3-{3-[4-(6-(methylamino)purin-9-yl)phenyl]ureido}-5-(trifluoromethyl)benzamide | 32 mg, 93% | OCC(CO)NC(C1=CC(=CC(=C1)C(F)(F)F)NC(=O)NC1=CC=C(C=C1)N1C2=NC=NC(=C2N=C1)NC)=O | C24H23F3N8O4
